US09388173B2
Step 4: N-(3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-hydroxypropyl)-N-(3-(1-methyl-1H-benzo[d]imidazol-6-yl)phenyl)acetamide
To a solution of 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(N-(3-(1-methyl-1H-benzo[d]imidazol-6-yl)phenyl)acetamido)propan-2-yl acetate (60 mg, 0.121 mmol) in EtOH (2 ml) and H2O (1 mL) was added lithium hydroxide (10 mg, 0.238 mmol). The mixture was stirred at 25° C. until LCMS indicated completion of the reaction. Solvents were evaporated and the residue dissolved in 30 mL DCM, washed with aq. NaHCO3 and water then dried over anhydrous Na2SO4, and filtrated. Solvent was removed from this filtrate leaving a residue which was then purified by prep-HPLC to afford the desired product as colorless oil (3.7 mg, 6.7%). 1H NMR (400 MHz, METHANOL-d4) δ 8.49 (br. s., 1H), 8.20 (s, 1H), 7.84 (s, 1H), 7.70-7.81 (m, 3H), 7.49-7.67 (m, 2H), 7.33-7.41 (m, 1H), 7.13-7.27 (m, 3H), 7.09 (d, J=6.90 Hz, 1H), 4.31 (br. s., 1H), 4.20 (s, 2H), 4.03 (dd, J=5.21, 13.99 Hz, 1H), 3.96 (s, 3H), 3.73-3.84 (m, 1H), 3.32-3.39 (m, 2H), 2.98-3.19 (m, 4H), 1.97 (s, 3H) LCMS (m/z): 455.2 [M+H]+

reactant | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(N-(3-(1-methyl-1H-benzo[d]imidazol-6-yl)phenyl)acetamido)propan-2-yl acetate | 0.121 mmol, 60 mg | C(C)(=O)OC(CN1CC2=CC=CC=C2CC1)CN(C(C)=O)C1=CC(=CC=C1)C=1C=CC2=C(N(C=N2)C)C1 | C30H32N4O3
reactant | lithium hydroxide | 0.238 mmol, 10 mg | [OH-].[Li+]
solvent | EtOH | 2 ml | CCO | C2H6O
solvent | H2O | 1 mL | O | H2O
product | N-(3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-hydroxypropyl)-N-(3-(1-methyl-1H-benzo[d]imidazol-6-yl)phenyl)acetamide | 3.7 mg, 6.7% | C1N(CCC2=CC=CC=C12)CC(CN(C(C)=O)C1=CC(=CC=C1)C=1C=CC2=C(N(C=N2)C)C1)O | C28H30N4O2
